US07538114B2
To a solution of chlorobis(4-chlorophenyl)methane (407 mg, 1.5 mmol) in MeCN was added piperazin-2-one (601 mg, 6.0 mmol) followed by triethylamine (626 μl, 4.5 mmol) and the resulting mixture was refluxed overnight. After cooling to rt, the solvent was evaporated to dryness and the residue was submitted to column chromatography (SiO2, DCM to DCM/MeOH=100:5) to give 4-(bis(4-chlorophenyl)methyl)piperazin-2-one (420 mg) as a white solid.

reactant | chlorobis(4-chlorophenyl)methane | 1.5 mmol, 407 mg | ClC(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C13H9Cl3
reactant | piperazin-2-one | 6.0 mmol, 601 mg | N1C(CNCC1)=O | C4H8N2O
reactant | triethylamine | 4.5 mmol, 626 μl | C(C)N(CC)CC | C6H15N
solvent | MeCN | CC#N | C2H3N
product | 4-(bis(4-chlorophenyl)methyl)piperazin-2-one | 420 mg | ClC1=CC=C(C=C1)C(N1CC(NCC1)=O)C1=CC=C(C=C1)Cl | C17H16Cl2N2O
